US04224325
Preparation of 3-morpholino-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine
A mixture of 1.95 g (0.01 moles) of 3-morpholino-6-pyridazinylhydrazine, 1.0 g (0.01 moles) of acetylacetone and 20 ml of ethanol is heated to reflux for 3 hours. After cooling the separated crystals are filtered, washed with ethanol and dried. Yield: 1.65 g (64.5%); m.p. 119°-121° C.

reactant | 3-morpholino-6-pyridazinylhydrazine | 0.01 moles, 1.95 g | O1CCN(CC1)C=1N=NC(=CC1)NN | C8H13N5O
reactant | acetylacetone | 0.01 moles, 1.0 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-morpholino-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | O1CCN(CC1)C=1N=NC(=CC1)N1N=C(C=C1C)C | C13H17N5O
